US05223539
N-cyclohexyl-3-methoxy-4-[(3-methoxyphenoxy)methyl]-N-(1-methylethyl)benzamide
A slurry of K2CO3 (0.75 g, 5.43 mmol) in a solution of 4-bromomethyl-3-methoxybenzoic acid N-isopropyl-N-cyclohexyl amide (1.0 g, 2.7 mmol) and 3-methoxy phenol (0.35 g, 2.74 mmol) in dimethylformamide (DMF) (15 ml) was stirred overnight at room temperature. The reaction mixture was diluted with water (50 ml), extracted twice with ethyl acetate and dried (Na2SO4) The drying agent was filtered and the filtrate concentrated in vacuo to give the crude product as a dark oil. This material was purified by chromatography on silica gel using mixtures of ethyl acetate, CH2Cl2 and hexane as eluents to give the title compound as a glass.

reactant | K2CO3 | 5.43 mmol, 0.75 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-bromomethyl-3-methoxybenzoic acid N-isopropyl-N-cyclohexyl amide | 2.7 mmol, 1.0 g | C(C)(C)N(C(C1=CC(=C(C=C1)CBr)OC)=O)C1CCCCC1 | C18H26BrNO2
reactant | 3-methoxy phenol | 2.74 mmol, 0.35 g | COC=1C=C(C=CC1)O | C7H8O2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | N-cyclohexyl-3-methoxy-4-[(3-methoxyphenoxy)methyl]-N-(1-methylethyl)benzamide | C1(CCCCC1)N(C(C1=CC(=C(C=C1)COC1=CC(=CC=C1)OC)OC)=O)C(C)C | C25H33NO4
